US07846944B2
Step 2: Synthesis of methyl 4-(acetoxymethyl)-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzoate
Methyl 4-(acetoxymethyl)-3-bromobenzoate (215 mg, 749 μmol), Pd(dppf)Cl2 (55 mg, 75 mol), KOAc (169 mg, 1722 μmol), 4,4,5,5-tetramethyl-2-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1,3,2-dioxaborolane (285 mg, 1123 μmol) and 1,4-dioxane (2.0 mL) were heated in a microwave at 130° C. for 23 min. The crude reaction mixture was filtered through a plug of celite washing with EtOAc. The residue was purified on the ISCO 40 g column (5-25% EtOAc in hexanes) affording the title compound as a white solid. MS (ESI, pos.ion) m/z: 357.1 (M+Na+).

reactant | Methyl 4-(acetoxymethyl)-3-bromobenzoate | 749 μmol, 215 mg | C(C)(=O)OCC1=C(C=C(C(=O)OC)C=C1)Br | C11H11BrO4
reactant | KOAc | 1722 μmol, 169 mg | CC(=O)[O-].[K+]
reactant | 4,4,5,5-tetramethyl-2-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1,3,2-dioxaborolane | 1123 μmol, 285 mg | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
catalyst | Pd(dppf)Cl2 | 75 mol, 55 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | 1,4-dioxane | 2.0 mL | O1CCOCC1 | C4H8O2
product | methyl 4-(acetoxymethyl)-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzoate | C(C)(=O)OCC1=C(C=C(C(=O)OC)C=C1)B1OC(C(O1)(C)C)(C)C | C17H23BO6
